US05691384
Combine (E and Z)-1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethylene (20.2 mol) and chloroform (60 L). Add N-chlorosuccinimide (7 kg, 52.4 mol). Heat to reflux. After 18 hours, cool to ambient temperature and add water. Separate the organic layer and extract with aqueous saturated sodium carbonate solution. Separate the organic layer and evaporate in vacuo to give (E and Z)-1-(4-chlorobutoxy)phenyl-2-chloro-1,2-diphenyl ethylene.

reactant | 1-(4-chlorobutoxy)phenyl-1,2-diphenyl ethylene | 20.2 mol | ClCCCCOC1(CC=CC=C1)C(=CC1=CC=CC=C1)C1=CC=CC=C1 | C24H25ClO
reactant | chloroform | 60 L | C(Cl)(Cl)Cl | CHCl3
reactant | N-chlorosuccinimide | 52.4 mol, 7 kg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | O | H2O
product | 1-(4-chlorobutoxy)phenyl-2-chloro-1,2-diphenyl ethylene | ClCCCCOC1(CC=CC=C1)C(=C(C1=CC=CC=C1)Cl)C1=CC=CC=C1 | C24H24Cl2O
